US05574042
To a solution of 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-[(thiomorpholinoacetyl)glycyl]amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (200 mg) in methylene chloride (2 ml) was added m-chloroperbenzoic acid (80% purity, 76 mg) under ice-bath cooling, and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was washed with water twice and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=5:1, V/V) to give 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-[[(1-oxothiomorpholino)acetyl]glycyl]amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (96 mg ) as an amorphous.

reactant | 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-[(thiomorpholinoacetyl)glycyl]amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 200 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(CNC(CN2CCSCC2)=O)=O)C)Cl)C | C24H26BrCl2N5O3S
reactant | m-chloroperbenzoic acid | 76 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-8-[2,6-dichloro-3-[N-methyl-N-[[(1-oxothiomorpholino)acetyl]glycyl]amino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 96 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C(CNC(CN2CCS(CC2)=O)=O)=O)C)Cl)C | C24H26BrCl2N5O4S
